US06670372B2
Crude 4-chloro-3-nitroquinoline (413.8 g, 1 eq.) was dissolved in dichloromethane (1.65 L). The solution was heated to reflux and then filtered through a layer of Celite® filter agent. The filtrate was cooled to 5° C. with stirring. Triethylamine (305.4 mL, 1.1 eq.) was added in a single portion. The reaction mixture was stirred for 15 minutes. (R)-(−)-2-Amino-1-butanol (205 mL, 1.1 eq.) was added dropwise while maintaining the temperature of the reaction mixture below 40° C. The reaction mixture was allowed to stir at ambient temperature for several days. The reaction mixture was cooled to −30° C. A yellow precipitate was isolated by filtration, washed with very cold dichloromethane and then sucked dry. The solid was slurried for 1 hour with cold 80/20 water/methanol (1 L), isolated by filtration, washed with cool water, washed with very cold methanol (2×300 mL), and then sucked dry on the filter overnight to provide 475 g of (2R)-2-[(3-nitroquinolin-4-yl)amino]butan-1-ol.

reactant | 4-chloro-3-nitroquinoline | 413.8 g, 1 eq. | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | Triethylamine | 305.4 mL, 1.1 eq. | C(C)N(CC)CC | C6H15N
reactant | (R)-(−)-2-Amino-1-butanol | 205 mL, 1.1 eq. | N[C@@H](CO)CC | C4H11NO
solvent | dichloromethane | 1.65 L | ClCCl | CH2Cl2
product | (2R)-2-[(3-nitroquinolin-4-yl)amino]butan-1-ol | 475 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1N[C@@H](CO)CC | C13H15N3O3
